US07662965B2
Synthesis of 3-(3-((5-(2,4-dichlorophenyl)furan-2-yl)methylene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine
3-(5-Ammoniopentanoyl)pyridinium chloride (103 mg, 0.41 mmol) and 5-(2,4-dichlorophenyl)furfural (128 mg, 0.53 mmol) were combined in a reaction vessel and treated with isopropanol (6 mL). The reaction vessel was sealed and the reaction was heated to 80° C. with stirring overnight. The reaction was then cooled to room temperature, concentrated under reduced pressure and treated with saturated NaHCO3(aq). This mixture was then extracted three times with EtOAc. The EtOAc extracts were washed with brine, combined, dried over Na2SO4, filtered and concentrated under reduced pressure. The recovered material was eluted through a 20 gram column of silica gel with 10.5:7:7:0.5:0.05 (700 mL) and with 7:7:7:1:0.1 (440 mL) hexane:MtBE:CH2Cl2:MeOH:NH4OH (step gradient). One sample was recovered that slowly solidified. This solid material was re-crystallized from a mixture of hot isopropanol and hexane. The crystals were recovered by vacuum filtration, washed with 20% isopropanol in hexane and then with ether, then dried under vacuum giving 71 mg (45%) of a yellow crystalline solid. LC-MS: RT=6.17 min, [M+H]+=383.0.

reactant | 3-(5-Ammoniopentanoyl)pyridinium chloride | 0.41 mmol, 103 mg | [Cl-].[NH3+]CCCCC(=O)C=1C=[NH+]C=CC1.[Cl-]
reactant | 5-(2,4-dichlorophenyl)furfural | 0.53 mmol, 128 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=O)O1 | C11H6Cl2O2
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
product | 3-(3-((5-(2,4-dichlorophenyl)furan-2-yl)methylene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine | 71 mg, 45% | ClC1=C(C=CC(=C1)Cl)C1=CC=C(O1)C=C1C(=NCCC1)C=1C=NC=CC1 | C21H16Cl2N2O
